US04089672
A quantity (3.04 gm., 0.01 mole) of 3,4,5-tribromopyrazole was dissolved in 70 ml. acetone and 2.76 gm. (0.02 mole) solid anhydrous potassium carbonate was added. The mixture was heated at the reflux temperature with stirring for 10 minutes and, after cooling, 2.0 gm. (0.011 mole) ethyl 2-bromopropionate was added. This reaction mixture was heated at the reflux temperature for 11/2 hrs. After cooling, an aqueous solution of sodium hydroxide (0.5 gm. in 90 ml. water) was added. The acetone was distilled off and the remaining aqueous solution was heated at the reflux temperature for 2 hrs. The clear solution thus obtained was cooled and acidified to about pH 2 with 2 N hydrochloric acid. A white precipitate that formed was collected on a filter, washed with water, and dried. There was thus obtained 3.55 gm. (95% yield) of 3,4,5-tribromo-α-methylpyrazole-1-acetic acid having a melting point at 162° to 164° C., identical with the product of Example 5.

reactant | 3,4,5-tribromopyrazole | 0.01 mole, 3.04 gm | BrC1=NNC(=C1Br)Br | C3HBr3N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromopropionate | 0.011 mole | BrC(C(=O)OCC)C | C5H9BrO2
reactant | sodium hydroxide | 90 ml, 0.5 gm | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 3,4,5-tribromo-α-methylpyrazole-1-acetic acid | 95% yield | BrC1=NN(C(=C1Br)Br)C(C(=O)O)C | C6H5Br3N2O2
